* source AUDIOIN
.EXTERNAL OUTPUT 5V
.EXTERNAL OUTPUT VCC+
.EXTERNAL OUTPUT VCC-
.EXTERNAL OUTPUT VREF
.EXTERNAL OUTPUT Buffer_Out
.EXTERNAL OUTPUT CS_OUT
.EXTERNAL OUTPUT V8
.EXTERNAL OUTPUT ALIAS_OUT
C_C10         0 N02426  2.2n  TC=0,0 
R_R9         N02426 N02884  10k TC=0,0 
R_R7         N02282 N02330  10k TC=0,0 
C_C9         0 N02452  1n  TC=0,0 
C_C6         N02282 N02124  3.3n  TC=0,0 
R_R10         N02884 N02452  10k TC=0,0 
C_C7         N02884 N02146  3.3n  TC=0,0 
C_C8         0 N02330  1.5n  TC=0,0 
E_U3         N02124 0 VALUE {LIMIT(V(N02330,N02124)*1E6,-15V,+15V)}
E_U4         N02146 0 VALUE {LIMIT(V(N02452,N02146)*1E6,-15V,+15V)}
R_R6         N02146 N02282  10k TC=0,0 
R_R8         CS_OUT N02426  10k TC=0,0 
E_U5         ALIAS_OUT 0 VALUE {LIMIT(V(N03986,ALIAS_OUT)*1E6,-15V,+15V)}
R_R11         N02124 N03928  10k TC=0,0 
C_C11         N03928 ALIAS_OUT  10n  TC=0,0 
C_C12         0 N03986  0.5n  TC=0,0 
R_R12         N03928 N03986  10k TC=0,0 
R_R13         BUFFER_OUT N05873  50.8k TC=0,0 
R_R16         N05881 N05911  10k TC=0,0 
R_R17         N05911 CS_OUT  10k TC=0,0 
V_V4         5V 0 5
R_R14         VREF N05873  50.8k TC=0,0 
R_R15         N05873 N05881  10k TC=0,0 
X_U8         N07263 VREF VCC+ VCC- VREF UA741
V_V5         VCC+ 0 15
V_V6         VCC- 0 -15
R_R18         N07263 5V  10k TC=0,0 
R_R19         0 N07263  6.67k TC=0,0 
X_U9         0 N05873 VCC+ VCC- N05881 UA741
X_U10         0 N05911 VCC+ VCC- CS_OUT UA741
C_C13         N09132 N09186  1u  
R_R20         0 N09186  10k TC=0,0 
X_U11         N09186 BUFFER_OUT VCC+ VCC- BUFFER_OUT UA741
X_U12         ALIAS_OUT N10926 VCC+ VCC- N10876 UA741
D_D1         N10876 N10920 Dbreak 
R_R21         N10926 N10920  470 TC=0,0 
X_D2         0 N10926 Zener_parameterized PARAMS: VZT=3.3 RSF=100m
V_V8         V8 0 5
C_C14         VCC+ 0  0.1u  
C_C15         VCC- 0  0.1u  
V_V9         N09132 0 DC 0Vdc AC 1Vac 
